US08609675B2
Step F—Synthesis of ethyl 4-((7-chloropyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4g)
To a 100 mL round-bottom flask was charged ethyl 4-((7-hydroxypyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4f, 2.48 g, 8.19 mmol), N,N-dimethylaniline (4 mL) and POCl3 (40 mL). The resulting solution was allowed to stir at room temperature for 18 hours. After 18 hours, the solvent was removed in vacuo. The residue was cooled to 0° C. in ice bath. The cooled residue was slowly quenched with saturated NaHCO3 (aq), and then extracted with DCM (x3). The combined organic extracts were dried over Na2SO4 and the residue purified via silica gel chromatography to yield the title compound as clear oil. Yield=2.29 g.

reactant | ethyl 4-((7-hydroxypyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | 8.19 mmol, 2.48 g | OC1=CC(=NC=2N1N=CC2)CC2CCC(CC2)C(=O)OCC | C16H21N3O3
reactant | N,N-dimethylaniline | 4 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 40 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-((7-chloropyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | ClC1=CC(=NC=2N1N=CC2)CC2CCC(CC2)C(=O)OCC | C16H20ClN3O2
